US05234946
3 g of 3,4-dihydroxybenzaldehyde and 0.87 g of 60% oily sodium hydride were suspended in 13 ml of tetrahydrofuran, and a dimethylformamide solution (10 ml) of 3.3 ml of methoxymethyl chloride was added. The mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was distributed between ethyl acetate and water, the organic layer was worked up in a customary manner, and then purified by silica gel column chromatography [Wakogel C-200, 150 g; eluting solvent: hexane/ethyl acetate=4/1] to give 1.78 g (yield 45%) of 3-hydroxy-4-methoxymethyloxybenzaldehyde.

reactant | 3,4-dihydroxybenzaldehyde | 3 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | sodium hydride | 0.87 g | [H-].[Na+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | methoxymethyl chloride | 3.3 ml | COCCl | C2H5ClO
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-4-methoxymethyloxybenzaldehyde | 1.78 g, yield 45% | OC=1C=C(C=O)C=CC1OCOC | C9H10O4
